US07601722B2
In an analogous manner as general procedure II, step 2, a solution of tert-butyl 4-{2-[3-(2-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethyl}piperazine-1-carboxylate (0.22 g, 0.47 mmol) in dichloromethane (10 mL) was treated with hydrogen chloride (3.0 mL of a 4 M solution in dioxane), resulting in a white precipitate that was evaporated and dried under vacuum to provided 1-(2-methylphenyl)-3-(2-piperazin-1-ylethyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.16 g, 92%) as a white solid:

reactant | tert-butyl 4-{2-[3-(2-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethyl}piperazine-1-carboxylate | 0.47 mmol, 0.22 g | CC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCN2CCN(CC2)C(=O)OC(C)(C)C)(=O)=O | C24H32N4O4S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(2-methylphenyl)-3-(2-piperazin-1-ylethyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.16 g, 92% | CC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCN2CCNCC2)(=O)=O | C19H24N4O2S
